US07160911B2
4-Iodomethyl-5-methyl-2-naphthalen-2-yloxazole
1.8 g of 4-chloromethyl-5-methyl-2-naphthalen-2-yloxazole and 3 g of sodium iodide in 150 ml of acetone are heated under reflux for 2 hours. After the reaction mixture has been cooled, 300 ml of methyl tert-butyl ether are added, the mixture is washed three times with saturated Na2S2O3 solution and dried over MgSO4 and the solvents are then removed under reduced pressure. This gives 2.7 g of 4-iodomethyl-5-methyl-2-naphthalen-2-yloxazole as a light-yellow solid.

reactant | 4-chloromethyl-5-methyl-2-naphthalen-2-yloxazole | 1.8 g | ClCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C15H12ClNO
reactant | sodium iodide | 3 g | [I-].[Na+]
reactant | methyl tert-butyl ether | 300 ml | C(C)(C)(C)OC | C5H12O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-Iodomethyl-5-methyl-2-naphthalen-2-yloxazole | ICC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C15H12INO
